* Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar
*
* This is the Tapped Inductor
*
* Parameter L is the total inductance
* Parameter n is the turn ratio, equal to N2/N1
*
* Connections: 
*                
*                      _     S_______________       _
*                     /     S                |       \
*                    /       S               |        \
*                   /       S                |         \
*            (La)__/         S               |          \
*                  \        S                |           \
*                   \        S               |            \
*                    \_     S____________    |             \__(L , N2 Turns)
*                    /       S           |   |             /
*                   /       S            |   |            /
*  (Lb, N1 Turns)__/         S           |   |           /
*                  \        S            |   |          /
*                   \        S           |   |         /
*                    \_     S________    |   |        /
*                                    |   |   |      _/
*                                    |   |   |
*                                    |   |   |
.SUBCKT L_Tap                        1   2   3

La 3 2 {La}
Lb 2 1 {Lb}
K1 La Lb 1

.param Lb={L / (n**2)}
.param La={L * ( 1 - (1/n) )**2 }

.ends L_Tap
*